* Z:\home\mwismer\Repos\MADVLSI-Final\LTC\2-OR.asc
M2 N001 A V- V- nfet l=0.6um w=1.8um
M5 N002 N001 V+ V+ pfet l=0.6um w=1.8um
M6 N002 N001 V- V- nfet l=0.6um w=1.8um
M1 V- B N001 V- nfet l=0.6um w=1.8um
M3 N001 A N004 V+ pfet l=0.6um w=1.8um
M4 V+ B N004 V+ pfet l=0.6um w=1.8um
M7 N003 N002 V- V- nfet l=0.6um w=9um
M9 N003 N002 V+ V+ pfet l=0.6um w=18um
M8 Z N003 V- V- nfet l=0.6um w=9um
M10 Z N003 V+ V+ pfet l=0.6um w=18um
M11 Z N003 V- V- nfet l=0.6um w=9um
M12 Z N003 V+ V+ pfet l=0.6um w=18um
M13 Z N003 V- V- nfet l=0.6um w=9um
M14 Z N003 V+ V+ pfet l=0.6um w=18um
M15 Z N003 V- V- nfet l=0.6um w=9um
M16 Z N003 V+ V+ pfet l=0.6um w=18um
M17 Z N003 V- V- nfet l=0.6um w=9um
M18 Z N003 V+ V+ pfet l=0.6um w=18um
M19 Z N003 V- V- nfet l=0.6um w=9um
M20 Z N003 V+ V+ pfet l=0.6um w=18um
M21 Z N003 V- V- nfet l=0.6um w=9um
M22 Z N003 V+ V+ pfet l=0.6um w=18um
M23 Z N003 V- V- nfet l=0.6um w=9um
M24 Z N003 V+ V+ pfet l=0.6um w=18um
M25 Z N003 V- V- nfet l=0.6um w=9um
M26 Z N003 V+ V+ pfet l=0.6um w=18um
M27 Z N003 V- V- nfet l=0.6um w=9um
M28 Z N003 V+ V+ pfet l=0.6um w=18um
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.backanno
.end
